US05519034
A solution of 1-(4-chlorophenyl)cyclobutanecarbonyl chloride (20 g) in ether (50 ml) was added to a stirred mixture of 3-chloro-4-methoxyphenethylamine (16.2 g), triethylamine (13 ml) and ether (100 ml). After one hour, water (50 ml) was added and the mixture extracted with ethyl acetate. The organic layer gave a residue which was recrystallised twice from industrial methylated spirits. A portion of the product (12.6 g) was warmed with polyphosphate ester (70 ml). The resulting solution was heated at 90° C. for 48 hours, cooled and added to a mixture of ice, concentrated ammonia solution and ether. The ether layer was washed, dried and added to sodium borohydride (5 g) in ethanol (200 ml) and the mixture heated under reflux for 90 minutes. The ether evaporated during this time and then the ethanol was removed. Water (200 ml) was added and the resulting mixture extracted with ether. The extract was added to a mixture of 1M aqueous sodium phosphite solution [prepared from phosphorous acid (16.4 g), sodium bicarbonate (16.8 g) and water 200 ml)], 37-40% aqueous formaldehyde solution (130 ml) and methanol (300 ml). The ether was removed by evaporation and methanol (250 ml) added. The mixture was then heated under reflux for 16 hours and then the methanol was removed by evaporation. The residue was basified with aqueous ammonia solution and extracted with ether. The solvent was removed from the extract and the residue dried by azeotropic distillation with industrial methylated spirits and then with propan-2-ol. The dried residue was crystallised from propan-2-ol to give a solid which was further purified by high performance liquid chromatography. A sample of this purified product (1 g) was heated at 110°-115° C. under nitrogen with glacial acetic acid (10 ml) and 48% hydrobromic acid (10 ml) for 6 hours. The reaction mixture was then cooled and partitioned between ether and 50% aqueous potassium carbonate solution. The ether layer yielded 6-chloro-1-[1-(4-chlorophenyl)cyclobutyl]-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (m.p. 168°-171° C.).

reactant | 1-(4-chlorophenyl)cyclobutanecarbonyl chloride | 20 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)Cl | C11H10Cl2O
reactant | 3-chloro-4-methoxyphenethylamine | 16.2 g | ClC=1C=C(CCN)C=CC1OC | C9H12ClNO
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-chloro-1-[1-(4-chlorophenyl)cyclobutyl]-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C2CCN(C(C2=CC1O)C1(CCC1)C1=CC=C(C=C1)Cl)C | C20H21Cl2NO
